US08487106B2
In a reaction vessel, 4-bromo phenethyl alcohol (2.0 g), Pd(dba)2 (0.11 g), t-Bu3P (0.08 g), ZnF2 (0.52 g), methyltrimethylsilyl dimethylketene acetal (2.6 g) and DMF (20 mL) were introduced, and the mixture was reacted at 80□ for 18 hours. Distilled water (50 mL) and ethyl acetate (50 mL) were added thereto, and the mixture was stirred to separate layers. The separated organic layer was dehydrated with Na2SO4, and then condensed by filtration, and purified to obtain 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester (2.4 g, yield 100%).

reactant | 4-bromo phenethyl alcohol | 2.0 g | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | t-Bu3P | 0.08 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | water | 50 mL | O | H2O
catalyst | Pd(dba)2 | 0.11 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | ZnF2 | 0.52 g | [F-].[F-].[Zn+2]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester | 2.4 g, yield 100% | COC(C(C)(C)C1=CC=C(C=C1)CCO)=O | C13H18O3
